US05071999
a) Diethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-3,7-dicarboxylate
50 g (0.25 mol) of N-benzylglycine ethyl ester in 1 1 of toluene are heated under reflux in a water separator and 43 g (0.25 mol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are added dropwise during the course of two hours. The mixture is heated under reflux until water no longer separates and concentrated, and the residue is distilled.

reactant | N-benzylglycine ethyl ester | 0.25 mol, 50 g | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 0.25 mol, 43 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
solvent | water | O | H2O
product | Diethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-3,7-dicarboxylate | C(C1=CC=CC=C1)N1C2CN(CC2CC1C(=O)OCC)C(=O)OCC | C19H26N2O4
